US08492582B2
Methylene chloride (5.0 mL), pyridine (0.25 mL), and acetic anhydride (0.19 mL) were sequentially added to the obtained 2-hydroxy-5-(pyridin-3-yl)benzoic acid, followed by heating to reflux for 1 hour. The reaction mixture was cooled to room temperature, and then pyridine (0.082 mL) and acetic anhydride (0.095 mL) were added thereto, followed by heating to reflux for 30 minutes. The reaction mixture was cooled to room temperature, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 99-93% chloroform/methanol] to obtain 0.035 g of 2-acetoxy-5-(pyridin-3-yl)benzoic acid as a white solid.

reactant | Methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
reactant | acetic anhydride | 0.19 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-hydroxy-5-(pyridin-3-yl)benzoic acid | OC1=C(C(=O)O)C=C(C=C1)C=1C=NC=CC1 | C12H9NO3
reactant | acetic anhydride | 0.095 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.082 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
product | 2-acetoxy-5-(pyridin-3-yl)benzoic acid | 0.035 g | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)C=1C=NC=CC1 | C14H11NO4
